US07462624B2
Step A: N-Pentylurea
To a 7.0 M solution of ammonia in methanol (32 mL) was dropwise added 1-isocyanatopentane (5.0 g, 0.044 mol). After the addition, the mixture was stirred at room temperature for 1 h and concentrated under reduced pressure to give a white solid, which was directly used for next step without further purification. LCMS calculated for C6H15N2O (M+H): 131.1; found 131.1.

reactant | ammonia | N | H3N
reactant | 1-isocyanatopentane | 0.044 mol, 5.0 g | N(=C=O)CCCCC | C6H11NO
solvent | methanol | 32 mL | CO | CH4O
product | N-Pentylurea | C(CCCC)NC(=O)N | C6H14N2O
